US05472978
3,5-Bistrifluoromethylbenzyl 2-acetamido-3-(3-indolyl)propionate
Following the method of Example 1, 3,5-bistrifluoromethylbenzyl bromide (6.16 g) and N acetyl-L-tryptophan (4.92 g) gave the title compound which was recrystallised from ethyl acetate/petroleum ether (3.7 g), m.p. 147°-148° C. 1H NMR (360 MHz, CDCl3) δ8.01 (1H, s), 7.83 (1H, s), 7.61 (1H, s), 7.51 (1H, d, J=8 Hz), 7.32 (1H, d, J=8 Hz), 7.17 (1H, t, J=7 Hz), 7.09 (1H, t, J=7 Hz), 6.91 (1H, d, J=2 Hz), 5.98 (1H, s), 5.13 (1H, d, J=13 Hz), 5.06 (1H, t, J=13 Hz), 4.96 (1H, t, J=6 Hz), 3.31 (2H, m), 1.98 (1H, s); Found: C, 56.08; H, 3.79; N, 5.74. C22H18N2F6O3 requires C, 55.84; H, 3.84; N, 5.93%.

reactant | 3,5-bistrifluoromethylbenzyl bromide | 6.16 g | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | acetyl-L-tryptophan | 4.92 g | C(C)(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C13H14N2O3
product | 3,5-Bistrifluoromethylbenzyl 2-acetamido-3-(3-indolyl)propionate | C(C)(=O)NC(C(=O)OCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1=CNC2=CC=CC=C12 | C22H18F6N2O3
